US08669234B2
(S)-4-(Difluoromethoxy)-2-(methoxycarbonylamino) butanoic acid
(S)-Benzyl 4-(difluoromethoxy)-2-(methoxycarbonylamino)butanoate (56 mg, 0.176 mmol) was dissolved in ethyl alcohol (3.5 mL) and under Argon charged with 10% Pd/C (19 mg). The flask was sealed with a rubber septa and the air atmosphere was replaced with H2 from a balloon by applying vacuum and then releasing H2 and repeating this three times. The mixture was stirred for 4 hours at room temperature. Upon completion, the crude mixture was passed through a Elite plug, concentrated down on rotovap and used as-is in the next step. 40 mg (100%).

reactant | (S)-Benzyl 4-(difluoromethoxy)-2-(methoxycarbonylamino)butanoate | 0.176 mmol, 56 mg | FC(OCC[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC)F | C14H17F2NO5
solvent | ethyl alcohol | 3.5 mL | C(C)O | C2H6O
catalyst | Pd/C | 19 mg | [Pd] | Pd
product | (S)-4-(Difluoromethoxy)-2-(methoxycarbonylamino) butanoic acid | FC(OCC[C@@H](C(=O)O)NC(=O)OC)F | C7H11F2NO5
